US04929637
Step B: Preparation of 2-Bromo-3-[2-(methoxyethoxymethoxy)ethyl]thiophene
A solution of 2-bromo-3-(2-hydroxyethyl)thiophene (40.0 g, 0.193 mol) in methylene chloride (200 ml) was cooled in ice and methoxyethoxymethyl chloride (41.9 g, 0.336 mol) was added with stirring. After several minutes N,N-diisopropylethylamine (44.3 g, 0.336 mol) was added and the solution was stirred overnight at room temperature. The solvent was removed in vacuo and the residue was taken up in ether (150 ml) and water (75 ml). The ether layer was separated and was washed with saturated NaHCO3 solution and with water, dried over anhydrous Na2SO4, filtered and concentrated in vacuo at room temperature to give 52.1 g of an amber liquid. TLC indicated that the product was pure and NMR confirmed the structure. Field desorption mass spectral analysis gave a molecular ion of M/Z 294. The yield was 91%.

reactant | 2-bromo-3-(2-hydroxyethyl)thiophene | 0.193 mol, 40.0 g | BrC=1SC=CC1CCO | C6H7BrOS
reactant | methoxyethoxymethyl chloride | 0.336 mol, 41.9 g | COCCOCCl | C4H9ClO2
reactant | N,N-diisopropylethylamine | 0.336 mol, 44.3 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-3-[2-(methoxyethoxymethoxy)ethyl]thiophene | 52.1 g, yield was 91% | BrC=1SC=CC1CCOCOCCOC | C10H15BrO3S
